US09447006B2
A solution of 7,9,10-trimethyl-2,4-dipropyl-7-(4,8,12-trimethyl-tridecyl)-4,5,6,7-tetrahydro-1,3,8-trioxa-phenanthrene (Ex-1C-2) (180 mg of crude material form above) in AcOH (10 mL) and conc. H2SO4 (10 drops) was hydrogenated (H2, 50 psi, RT) with 5% Pd/C (20 mg of 50% w/w wet) at RT for 16 h. The reaction mixture was then filtered through celite. The celite was rinsed with DCM (2×2 mL). The DCM layer was concentrated by rotary evaporation to yield a light brown oil. The oil was dissolved in DCM (15 mL) and passed through a silica plug. The DCM was concentrated by rotary evaporation to yield (R,R,R)-5-butyl-2,7,8-trimethyl-2-(4,8,12-trimethyl-tridecyl)-chroman-6-ol (Ex-1C-3) as a cloudy yellow oil (165 mg, >100%), which was used directly without further purification.

reactant | 7,9,10-trimethyl-2,4-dipropyl-7-(4,8,12-trimethyl-tridecyl)-4,5,6,7-tetrahydro-1,3,8-trioxa-phenanthrene | 180 mg | CC1(CCC2=C3C(OC(OC3=C(C(=C2O1)C)C)CCC)CCC)CCCC(CCCC(CCCC(C)C)C)C | C36H62O3
solvent | AcOH | 10 mL | CC(=O)O | C2H4O2
catalyst | H2SO4 | 10 drops | OS(=O)(=O)O | H2O4S
solvent | DCM | 15 mL | C(Cl)Cl | CH2Cl2
catalyst | Pd/C | 20 mg | [Pd] | Pd
product | (R,R,R)-5-butyl-2,7,8-trimethyl-2-(4,8,12-trimethyl-tridecyl)-chroman-6-ol | 165 mg, >100% | C(CCC)C1=C2CC[C@](OC2=C(C(=C1O)C)C)(CCC[C@@H](CCC[C@@H](CCCC(C)C)C)C)C | C32H56O2
